US07067506B2
1-(2-Methoxy-5-methyl-phenyl)-3-(5-methoxy-pyrazin-2-yl)-urea
To a stirred solution of 1-(5-bromo-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea (47 mg; 0.14 mmol) in N-methyl pyrrolidinone (300 μL) was added sodium methoxide (0.5 mmol). The reaction was heated to 100° C. After stirring for 12 hours, the reaction was cooled to room temperature, diluted with 30 mL of ethyl acetate and washed with aqueous 10% sodium carbonate (1×30 mL), brine (30 mL), then dried (MgSO4), and filtered. The crude product was purified using a 0.5 mm prep plate eluting with hexane and ethyl acetate (1:1) to yield a yellow solid (13% yield). 1H NMR (400 MHz, CDCl3) δ8.12 (s, 1H), 7.99 (s, 1H), 7.91 (s, 1H), 6.80 (dd, 2H), 3.95 (s, 3H), 3.89 (s, 3H), 2.38 (s, 3H). LRMS (ESI, Positive) m/e 289.10 (M+1).

reactant | 1-(5-bromo-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea | 0.14 mmol, 47 mg | BrC=1N=CC(=NC1)NC(=O)NC1=C(C=CC(=C1)C)OC | C13H13BrN4O2
reactant | sodium methoxide | 0.5 mmol | C[O-].[Na+]
solvent | N-methyl pyrrolidinone | 300 μL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-Methoxy-5-methyl-phenyl)-3-(5-methoxy-pyrazin-2-yl)-urea | 13% yield | COC1=C(C=C(C=C1)C)NC(=O)NC1=NC=C(N=C1)OC | C14H16N4O3
